US05753679
0.25 g (0.0011 mol) of 1-(3-chloro-benzyl)-piperidin-4-ol and 0.39 ml (0.0028 mol) of triethylamine were dissolved in 11 ml of toluene, treated with 0.184 ml (0.0014 mol) of p-toluoyl chloride and boiled at reflux for 18 hrs. The reaction mixture was concentrated and the residue was chromatographed over silica gel with ethyl acetate/hexane (1:3). 0.155 g (41%) of 1-(3-chloro-benzyl)-piperidin-4-yl 4-methyl-benzoate was obtained as a colorless oil.

reactant | 1-(3-chloro-benzyl)-piperidin-4-ol | 0.0011 mol, 0.25 g | ClC=1C=C(CN2CCC(CC2)O)C=CC1 | C12H16ClNO
reactant | triethylamine | 0.0028 mol, 0.39 ml | C(C)N(CC)CC | C6H15N
reactant | p-toluoyl chloride | 0.0014 mol, 0.184 ml | C1(=CC=C(C=C1)C(=O)Cl)C | C8H7ClO
solvent | toluene | 11 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(3-chloro-benzyl)-piperidin-4-yl 4-methyl-benzoate | 0.155 g, 41% | CC1=CC=C(C(=O)OC2CCN(CC2)CC2=CC(=CC=C2)Cl)C=C1 | C20H22ClNO2
